US09238640B2
Preparation of 2-(4-((3R,5S)-3,5-Dimethylpiperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one
A solution of 2-(4-(4-acetyl-3,5-dimethylpiperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one (0.150 g, 0.34 mmol) in 2N HCl was heated at reflux temperature for 3 days. The reaction was cooled to room temperature, basified with 1N NaOH, and extracted with CH2Cl2. Purification by flash chromatography on silica gel, eluting with 0% to 15% MeOH/CH2Cl2, followed by further purification, eluting with 30% to 100% of 92:7:1 CHCl3/MeOH/concentrated NH4OH, afforded the title compound (0.040 g, 30%) as a white solid. 1H NMR (300 MHz, DMSO-d6): δ 11.98 (br s, 1H), 8.08 (d, J=9.0 Hz, 2H), 7.00 (d, J=9.0 Hz, 2H), 6.68 (d, J=2.3 Hz, 1H), 6.46 (d, J=2.3 Hz, 1H), 3.88 (s, 3H), 3.83 (s, 3H), 3.73-3.76 (m, 2H), 2.78-2.81 (m, 2H), 2.19-2.26 (m, 2H), 1.03 (d, J=6.2 Hz, 6H). ESI MS m/z 395 [M+H]+.

reactant | 2-(4-(4-acetyl-3,5-dimethylpiperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.34 mmol, 0.150 g | C(C)(=O)N1C(CN(CC1C)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C24H28N4O4
reactant | NaOH | 1N | [OH-].[Na+]
solvent | HCl | 2N | Cl | ClH
product | 2-(4-((3R,5S)-3,5-Dimethylpiperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.040 g, 30% | C[C@@H]1CN(C[C@@H](N1)C)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C22H26N4O3
